US07737156B2
6-(Cyclohexylmethyl)-1-cyclopentyl-1,5-dihydro-4H-pyrazolo[3,4-d]pyrimidin-4-one
Under argon, 75 mg (0.39 mmol) of 5-amino-1-cyclopentyl-1H-pyrazole-4-carboxamide and 183 mg (1.16 mmol, 3 equiv.) of methyl cyclohexylacetate are introduced into 1.5 ml of absolute ethanol. At 0° C., 54 mg of sodium hydride (60% dispersion in mineral oil; 1.35 mmol, 3.5 equiv.) are slowly added in a countercurrent of argon. The resulting mixture is slowly heated and stirred under reflux for 18 h. For workup, 20 ml of water are added, and the mixture is extracted several times with ethyl acetate. The combined organic phases are dried over sodium sulfate and concentrated in vacuo. The crude product is purified by preparative HPLC.

reactant | 5-amino-1-cyclopentyl-1H-pyrazole-4-carboxamide | 0.39 mmol, 75 mg | NC1=C(C=NN1C1CCCC1)C(=O)N | C9H14N4O
reactant | methyl cyclohexylacetate | 1.16 mmol, 183 mg, 3 equiv. | C1(CCCCC1)CC(=O)OC | C9H16O2
reactant | ethanol | 1.5 ml | C(C)O | C2H6O
reactant | sodium hydride | 1.35 mmol, 54 mg, 3.5 equiv. | [H-].[Na+]
solvent | water | 20 ml | O | H2O
product | 6-(Cyclohexylmethyl)-1-cyclopentyl-1,5-dihydro-4H-pyrazolo[3,4-d]pyrimidin-4-one | C1(CCCCC1)CC=1NC(C2=C(N1)N(N=C2)C2CCCC2)=O | C17H24N4O
